US04963543
A solution of (2S,4R)-4-t-butyldimethylsilyloxy-2-[(2,3-epoxypropyl)thiomethyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.59 g), sodium azide (0.52 g) and ammonium chloride (0.43 g) in N,N-dimethylformamide (26 ml) was stirred at 80°-90° C. for 2 hours. The reaction mixture was poured into ice-water (100 ml) and extracted 3 times with ethyl acetate (40 ml). The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of n-hexane and ethyl acetate (3:1 v/v). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-2-[(3-azido-2-hydroxypropyl)thiomethyl]-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.95 g).

reactant | (2S,4R)-4-t-butyldimethylsilyloxy-2-[(2,3-epoxypropyl)thiomethyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.59 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CSCC1CO1 | C22H34N2O6SSi
reactant | sodium azide | 0.52 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.43 g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 26 ml | CN(C=O)C | C3H7NO
product | (2S,4R)-2-[(3-azido-2-hydroxypropyl)thiomethyl]-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.95 g | N(=[N+]=[N-])CC(CSC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O | C22H35N5O6SSi
